US08207164B2
a) 5-Difluoromethyl-5-(2-fluoro-phenyl)morpholin-3-one
5-(5-Bromo-2-fluoro-phenyl)-5-difluoromethyl-morpholin-3-one (190 g, 586 mmol) [example 42 step e)] and sodium acetate (57.7 g, 703 mmol) were suspended in 1850 mL methanol. 10% Pd on charcoal (18.7 g) was then added and the reaction mixture was shaken in a Parr apparatus in an atmosphere of hydrogen at rt. After 60 minutes the reaction mixture was filtered over celite and evaporated. The residue was dissolved in 2 L TBME and washed with aqueous NaHCO3 and brine. The organic layer was dried over MgSO4.H2O and evaporated to give 143.2 g of the title compound as a white solid.

reactant | 5-(5-Bromo-2-fluoro-phenyl)-5-difluoromethyl-morpholin-3-one | 586 mmol, 190 g | BrC=1C=CC(=C(C1)C1(COCC(N1)=O)C(F)F)F | C11H9BrF3NO2
reactant | sodium acetate | 703 mmol, 57.7 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1850 mL | CO | CH4O
catalyst | Pd on charcoal | 18.7 g | [Pd] | Pd
product | 5-Difluoromethyl-5-(2-fluoro-phenyl)morpholin-3-one | 143.2 g | FC(C1(COCC(N1)=O)C1=C(C=CC=C1)F)F | C11H10F3NO2
